US07148234B2
STEP 1. 3-[4-(2-Hydroxyethyl)anilino]-4-nitrobenzonitrile
The title compound was prepared according to the procedure described in step 3 of Example 1 from 3-chloro-4-nitrobenzonitrile (Tsuji, K. Chem. Pharm. Bull. 1992, 40, 2399) and 4-aminophenylethyl alcohol.

reactant | 3-chloro-4-nitrobenzonitrile | ClC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3ClN2O2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 3-[4-(2-Hydroxyethyl)anilino]-4-nitrobenzonitrile | OCCC1=CC=C(NC=2C=C(C#N)C=CC2[N+](=O)[O-])C=C1 | C15H13N3O3
